US06747030B1
1-Acetyl-6-bromo-5-methoxyindoline (D1)
A stirred solution of 1-acetyl-6-bromoindolin-5-ol (Tetrahedron 1973, 29(8), 1115; 40 g, 0.15 mole) in DMF (500 ml) was treated with K2CO3 (61 g, 0.45 mole) and iodomethane (11.7 ml, 0.19 mole) and maintained at room temperature for 20 h, then concentrated under vacuum to 200 ml. The residue was treated with water (200 ml) and the precipitate filtered off, dried and recrystallised from EtOAc to afford the title compound as a white solid (35.7 g, 85%).

reactant | 1-acetyl-6-bromoindolin-5-ol | 0.15 mole, 40 g | C(C)(=O)N1CCC2=CC(=C(C=C12)Br)O | C10H10BrNO2
reactant | K2CO3 | 0.45 mole, 61 g | C(=O)([O-])[O-].[K+].[K+]
reactant | iodomethane | 0.19 mole, 11.7 ml | IC | CH3I
solvent | DMF | 500 ml | CN(C)C=O | C3H7NO
product | 1-Acetyl-6-bromo-5-methoxyindoline | 35.7 g, 85% | C(C)(=O)N1CCC2=CC(=C(C=C12)Br)OC | C11H12BrNO2
